US05344843
PREPARATION OF 4-[[2-(2-NAPHTHALENYLOXY)ETHYL]OXY]-ALPHA-OXOBENZENEACETIC ACID 2-(DIMETHYLAMINO)ETHYL ESTER
The acid chloride, prepared from 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alphaoxobenzeneacetic acid (0.5 g) as described in Example 6, was dissolved in dichloromethane (10 mL) and added dropwise to a stirred, cold (<-50° C.) mixture of 2-(dimethylamino)ethanol (0.178 g) in dichloromethane (10 mL). The cooling bath was removed and the mixture stirred for 1 hour at room temperature. The mixture was diluted with dichloromethane and washed once with saturated aqueous sodium bicarbonate, once with water, and the organic solution was dried (Na2SO4), filtered, and evaporated to give crude product. Crystallization from diethyl ether-hexane provided pure 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid 2-(dimethylamino)ethyl ester as a colorless solid, mp 93°-94° C.

reactant | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alphaoxobenzeneacetic acid | 0.5 g | C1=C(C=CC2=CC=CC=C12)OCCOC1=CC=C(C=C1)C(C(=O)O)=O | C20H16O5
reactant | 2-(dimethylamino)ethanol | 0.178 g | CN(CCO)C | C4H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[[2-(2-NAPHTHALENYLOXY)ETHYL]OXY]-ALPHA-OXOBENZENEACETIC ACID 2-(DIMETHYLAMINO)ETHYL ESTER | CN(CCOC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O)C | C24H25NO5
